US07947738B2
(28-a) Ethyl(E)-4-(2-hydroxyethyl)-hepta-2,6-dienoate
3-allyl-tetrahydrofuran-2-ol (18 g, 140 mmol) and ethoxycarbonyl triphenylphosphorane (35 g, 104 mmol) were stirred overnight in toluene (200 mL). The reaction solution was concentrated, and the residue was purified by silica gel column chromatography to obtain the compound of interest as an oil substance (15.8 g, 61.1%).

reactant | 3-allyl-tetrahydrofuran-2-ol | 140 mmol, 18 g | C(C=C)C1C(OCC1)O | C7H12O2
reactant | ethoxycarbonyl triphenylphosphorane | 104 mmol, 35 g | C(C)OC(=O)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H21O2P
reactant | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl(E)-4-(2-hydroxyethyl)-hepta-2,6-dienoate | OCCC(/C=C/C(=O)OCC)CC=C | C11H18O3
